US07132419B2
2-Bromobenzyl bromide was converted into 5-bromotetralone according to the literature (J. Org. Chem. 1984, p4226). Treatment of 5-bromotetralone with selenium dioxide as described in Referene Example 1A yielded 5-bromo-[1,2]naphthoquinone, which was coupled with 2,3-diamino-benzoic acid, diacetate salt, as described in Reference Example 1A to yield the title compound.

reactant | 2-Bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | 5-bromotetralone | BrC1=C2CCCC(C2=CC=C1)=O | C10H9BrO
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 5-bromo-[1,2]naphthoquinone | BrC1=C2C=CC(C(C2=CC=C1)=O)=O | C10H5BrO2
